US07608563B2
In methylene chloride (2 mL) was dissolved 50.3 mg (0.191 mmol) of 6-chloro-3-(2-cyclopropylphenoxy)-4-pyridazinol (Compound No. 139) obtained in Example 6, 0.027 mL (0.19 mmol) of triethylamine was added dropwise to the solution, then, 0.031 mL (0.19 mmol) of trifluoromethanesulfonic acid anhydride was added dropwise to the same, and the resulting mixture was stirred at room temperature for 30 minutes. The reaction mixture was purified as such by preparative thin-layer chromatography (available from MERCK Co., 1.05744, 2 plates were used, developed by ethyl acetate:hexane=2:1) to obtain 64.7 mg (0.164 mmol, Yield: 85.8%) of 6-chloro-3-(2-cyclopropylphenoxy)-4-pyridazinyl trifluoromethanesulfonate (Compound No. 2081).

reactant | 6-chloro-3-(2-cyclopropylphenoxy)-4-pyridazinol | 0.191 mmol, 50.3 mg | ClC1=CC(=C(N=N1)OC1=C(C=CC=C1)C1CC1)O | C13H11ClN2O2
reactant | triethylamine | 0.19 mmol, 0.027 mL | C(C)N(CC)CC | C6H15N
reactant | trifluoromethanesulfonic acid anhydride | 0.19 mmol, 0.031 mL | FC(S(=O)(=O)OS(=O)(=O)C(F)(F)F)(F)F | C2F6O5S2
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | 6-chloro-3-(2-cyclopropylphenoxy)-4-pyridazinyl trifluoromethanesulfonate | 0.164 mmol, 64.7 mg, Yield: 85.8% | FC(S(=O)(=O)OC1=C(N=NC(=C1)Cl)OC1=C(C=CC=C1)C1CC1)(F)F | C14H10ClF3N2O4S
